US06451821B1
a solution of 1.41 g of (3R,2RS)-3-amino-4-(4-pyridinyl)-2-butanol in 30 cm3 of ethanol, to which are added 1.08 cm3 of tert-butyl isothiocyanate and then 2.16 cm3 of triethylamine, is heated for 16 hours with stirring at a temperature in the region of 50° C. The reaction medium is concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C., taken up in 10 cm3 of water, washed with twice 30 cm3 of dichloromethane, dried over magnesium sulphate, filtered, evaporated under the above conditions and then dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. 2 g of N′-tert-butyl-N′-[(1R,2RS)-1-(4-pyridylmethyl)-2-hydroxypropyl]thiourea are obtained in the form of an orange-colored oil [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm). We observe a mixture of two diastereoisomers A and B in respective proportions of 70/30, δ=0.99 (d, J=6.5 Hz: 0.9H); 1.09 (d, J=6.5 Hz: 2.1H); 1.37 (s: 6.3H); 1.41 (s: 2.7H); 2.74 (dd, J=14.5 and 9 Hz: 0.7H); from 2.75 to 2.90 (mt: 0.6H); 2.93 (dd, J=14.5 and 5 Hz: 0.7H); from 3.55 to 3.80 (mt: 1H); from 4.35 to 4.60 (unresolved complex: 1H; 4.65 (unresolved complex: 0.3H); 4.88 (unresolved complex: 0.7H); from 7.10 to 7.25 (mt: 1H); 7.17 (broad s: 0.7H); 7.27 (broad d, J=6 Hz: 1.4H); 7.31 (broad d, J=6 Hz: 0.6H); 7.44 (broad s: 0.3H); from 8.35 to 8.50 (mt: 2H).

reactant | (3R,2RS)-3-amino-4-(4-pyridinyl)-2-butanol | 1.41 g | N[C@@H](C(C)O)CC1=CC=NC=C1 | C9H14N2O
reactant | tert-butyl isothiocyanate | 1.08 cm3 | C(C)(C)(C)N=C=S | C5H9NS
reactant | triethylamine | 2.16 cm3 | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | N′-tert-butyl-N′-[(1R,2RS)-1-(4-pyridylmethyl)-2-hydroxypropyl]thiourea | 2 g | C(C)(C)(C)N(C(N)=S)[C@@H](C(C)O)CC1=CC=NC=C1 | C14H23N3OS
